US09427442B2
Intermediate A-11: (2-Amino-3-isopropylphenyl)(3-chlorophenyl)methanone
2-Isopropylaniline (3 mL, 21.19 mmol) was added dropwise to a 0° C. solution of trichloroborane (1M in dichloromethane) (23.31 mL, 23.31 mmol) and dichloroethane (50 mL) and the mixture was stirred for 10 min. 3-Chlorobenzonitrile (5.83 g, 42.4 mmol), followed by aluminum trichloride (3.11 g, 23.31 mmol) were added and the mixture was stirred at 0° C. for a 25 minutes. The ice bath was removed and the mixture was heated to 75° C. overnight. The mixture was cooled to room temperature. 6N HCl (60 mL, 10 eq) was cautiously added and the mixture was heated to 75° C. After 4 hrs, 12 N HCl (10 mL) was added and heating was continued overnight at 75° C. The mixture was cooled to room temperature, transferred to an Erlenmeyer flask, diluted with ethyl acetate, cooled to 0° C. and cautiously brought to pH 10 with 50% aqueous NaOH. The resulting mixture was extracted with ethyl acetate (4×). The ethyl acetate extracts were combined, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to give a clear amber oil. The oil was suspended in a minimum of heptane and purified on an ISCO companion chromatography system (220 g silica cartridge, eluting with 0-20% ethyl acetate/heptane, 150 mL/min) to provide Intermediate A-11 (2.85 g, 10.41 mmol, 49.1% yield). HPLC RT=3.876 min 10/90 to 90/10 (MeOH/H2O/0.1% TFA, Waters SunFire C18 3.5μ, 2.1×30 mm, 1 mL/min, 4 min gradient, wavelength=254 nm); MS(ES): m/z=274 [M+1]; 1H NMR (400 MHz, chloroform-d) δ 7.63 (t, J=1.7 Hz, 1H), 7.55-7.48 (m, 2H), 7.44-7.29 (m, 3H), 6.65 (t, J=7.7 Hz, 1H), 6.43 (br. s., 2H), 3.11-2.87 (m, 1H), 1.34 (d, J=6.8 Hz, 6H).

reactant | 2-Isopropylaniline | 21.19 mmol, 3 mL | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | trichloroborane | 23.31 mmol, 1M, 23.31 mL | ClB(Cl)Cl | BCl3
reactant | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
reactant | 3-Chlorobenzonitrile | 42.4 mmol, 5.83 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | aluminum trichloride | 23.31 mmol, 3.11 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 6N, 60 mL, 10 eq | Cl | ClH
reactant | HCl | 12 N, 10 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH H2O | CO.O
solvent | heptane | CCCCCCC | C7H16
product | (2-Amino-3-isopropylphenyl)(3-chlorophenyl)methanone | 49.1% yield | NC1=C(C=CC=C1C(C)C)C(=O)C1=CC(=CC=C1)Cl | C16H16ClNO
